US05580893
N-(2-Nitroxyethyl)-5-phenyl-4-chloro-3-isoxazolyloxyacetamide (Exemplified compound No. 39)
Following a similar treatment to that in Example 2 and using 0.70 g of 5-phenyl-4-chloro-3-isoxazolyloxyacetic acid and 0.46 g of nitroxyethylamine nitrate, 0.42 g of the title compound was obtained as colorless needles (solvent for recrystallization; diisopropyl ether).

reactant | 5-phenyl-4-chloro-3-isoxazolyloxyacetic acid | 0.70 g | C1(=CC=CC=C1)C1=C(C(=NO1)OCC(=O)O)Cl | C11H8ClNO4
reactant | nitroxyethylamine nitrate | 0.46 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-5-phenyl-4-chloro-3-isoxazolyloxyacetamide | 0.42 g | O([N+](=O)[O-])CCNC(COC1=NOC(=C1Cl)C1=CC=CC=C1)=O | C13H12ClN3O6
